US05283240
8-chlorodibenz[b,f][1,4]-oxazepine-10(11H)-carbonyl chloride (2)
13 parts of phosgene in 45 parts of toluene was stirred for 2 hours at 5°-10° C., and then 70 parts of ether was added. This was followed by the addition of a solution of 18.9 parts of 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine and 7.2 parts of triethylamine in 140 parts of ether. After the addition was complete, the mixture was stirred for 2 hours, and then was filtered. The solvent was then evaporated from the filtrate. The resulting residue was then dissolved in 200 parts by volume of hot hexane, and this mixture was then filtered and cooled.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine | ClC1=CC2=C(OC3=C(CN2)C=CC=C3)C=C1 | C13H10ClNO
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 8-chlorodibenz[b,f][1,4]-oxazepine-10(11H)-carbonyl chloride | ClC1=CC2=C(OC3=C(CN2C(=O)Cl)C=CC=C3)C=C1 | C14H9Cl2NO2
